US09079866B2
4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-[2-hydroxy-1-(hydroxymethyl)-1-methylethyl]biphenyl-2-sulfonamide
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 2-bromo-N-(1,3-dihydroxy-2-methylpropan-2-yl)benzenesulfonamide. MS (ESI): mass calcd. for C20H21FN4O4S, 432.13; m/z found, 433.1 [M+H]+.

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-(1,3-dihydroxy-2-methylpropan-2-yl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NC(CO)(CO)C | C10H14BrNO4S
product | 4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-[2-hydroxy-1-(hydroxymethyl)-1-methylethyl]biphenyl-2-sulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(CO)(C)CO)F | C20H21FN4O4S
